US08664220B2
Step 2: (1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol (Enantiomer A)
To a solution of 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol (Enantiomer A) (0.530 g, 1.81 mmol) in DMSO (4 mL) and H2O (4 mL) was added azidomethyl-benzene (0.242 g, 1.81 mmol), followed by sodium ascorbate (0.036 g, 0.181 mmol) and copper(II) sulfate pentahydrate (0.005 g, 0.018 mmol), and the reaction was stirred overnight. After aqueous workup the crude material was purified by silica gel chromatography (15-100% EtOAc in hexanes) to give the title compound.

reactant | 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C)O | C13H10BrNO2
reactant | H2O | 4 mL | O | H2O
reactant | azidomethyl-benzene | 1.81 mmol, 0.242 g | N(=[N+]=[N-])CC1=CC=CC=C1 | C7H7N3
reactant | sodium ascorbate | 0.181 mmol, 0.036 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
catalyst | copper(II) sulfate pentahydrate | 0.018 mmol, 0.005 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)N1N=NC(=C1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H17BrN4O2
